US06211234B1
A solution of ethyl 4-(2,4-dibenzyloxyphenyl)-2,4-dioxobutanoate (3.23 g) in ethanol (10 mL) is treated with hydrazine hydrate (0.4 mL), refluxed for 2 hours and then cooled to room temperature. The mixture is filtered to yield ethyl 3-(2,4-dibenzyloxyphenyl)-pyrazole-5-carboxylate as a solid (1.5 g).

reactant | ethyl 4-(2,4-dibenzyloxyphenyl)-2,4-dioxobutanoate | 3.23 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)OCC1=CC=CC=C1)C(CC(C(=O)OCC)=O)=O | C26H24O6
reactant | hydrazine hydrate | 0.4 mL | O.NN
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | ethyl 3-(2,4-dibenzyloxyphenyl)-pyrazole-5-carboxylate | 1.5 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)OCC1=CC=CC=C1)C1=NNC(=C1)C(=O)OCC | C26H24N2O4
